US08183380B2
1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-2-methyl-isothiourea hydroiodide
[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-thiourea (600 mg, 1.8 mmol) was dissolved in 20 mL acetone and 10 mL tetrahydrofuran. Methyliodide (306 mg, 2.2 mmol) was added and the reaction mixture was stirred at room temperature for 3 h. The solvent was evaporated and the residue was recrystallized from dichloromethane and diethylether. The title compound (720 mg, 84%) was obtained as a yellow solid; MS: m/e=349.4 (M+H+).

reactant | [2-((R)-Indan-1-ylamino)-quinolin-6-yl]-thiourea | 1.8 mmol, 600 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=S)N | C19H18N4S
reactant | Methyliodide | 2.2 mmol, 306 mg | CI | CH3I
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[2-((R)-Indan-1-ylamino)-quinolin-6-yl]-2-methyl-isothiourea hydroiodide | 720 mg, 84% | I.[C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(SC)=N | InChI=1S/C20H20N4S.HI/c1-25-20(21)22-15-8-10-17-14(12-15)7-11-19(23-17)24-18-9-6-13-4-2-3-5-16(13)18;/h2-5,7-8,10-12,18H,6,9H2,1H3,(H2,21,22)(H,23,24);1H/t18-;/m1./s1
